US04243678
Analogously to Example 1, ethyl N-(2,4-dichloro)-benzoyl-4-[(1,1-dimethylpropyl)amino]butyrate (M.P. 75° to 77°) is obtained by reacting the reaction product of ethyl 4-bromobutyrate and 1,1-dimethylpropylamine with 2,4-dichlorobenzoyl chloride, the saponification of which yields 2,4-dichlorobenzoyl-4-[(1,1-dimethylpropyl)amino]-butyric acid (M.P. 124° to 126°).

reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
reactant | 1,1-dimethylpropylamine | CC(CC)(C)N | C5H13N
reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
product | 2,4-dichlorobenzoyl-4-[(1,1-dimethylpropyl)amino]-butyric acid | ClC1=C(C(=O)C(C(=O)O)CCNC(CC)(C)C)C=CC(=C1)Cl | C16H21Cl2NO3
